US20010027196A1
To a stirred suspension of 200 mg (0.85 mmol) 2-amino-4-(1-ethoxy-vinyl)-6-methylsulfanyl-pyrimidine-5-carbonitrile in 16 ml dioxane was added 546 mg (3.38 mmol) sodium 2-pyridin-2-yl-ethanethiolate and the mixture heated at 100° C. for 1 hour. The reaction mixture was then concentrated in vacuo and the residue triturated in ether. The crystals were removed by filtration and the mother liquor concentrated in vacuo. The residue was then recrystallised from ethyl acetate/hexane and the crystals additionally purified by HPLC to afford 4.0 mg (1%) 2-amino-4-(1-ethoxy-vinyl)-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidine-5-carbonitrile as an off-white crystalline solid. ES-MS m/e (%): 328 (M+H+, 100).

reactant | 2-amino-4-(1-ethoxy-vinyl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | 0.85 mmol, 200 mg | NC1=NC(=C(C(=N1)C(=C)OCC)C#N)SC | C10H12N4OS
reactant | sodium 2-pyridin-2-yl-ethanethiolate | 3.38 mmol, 546 mg | N1=C(C=CC=C1)CC[S-].[Na+]
solvent | dioxane | 16 ml | O1CCOCC1 | C4H8O2
product | 2-amino-4-(1-ethoxy-vinyl)-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidine-5-carbonitrile | 4.0 mg, 1% | NC1=NC(=C(C(=N1)C(=C)OCC)C#N)SCCC1=NC=CC=C1 | C16H17N5OS
